US07087626B2
6-Methyl-pyridine-2-carboxylic acid methyl ester
To a suspension of 6-methyl-pyridine-2-carboxylic acid (10 g, 72.9 mmol) in methylene chloride (200 mL) cooled to 0° C. is added methanol (10 mL), 4-dimethylaminopyridine (11.6 g, 94.8 mmol), and EDC (18.2 g, 94.8 mmol). The mixture is stirred at room temperature for 6 h, washed with water and brine, and dried over sodium sulfate. The mixture is filtered and concentrated in vacuo. The residue is chromatographed on SiO2 (50% ethyl acetate/hexanes) to yield the title compound, 9.66 g (92%), as a colorless liquid.

reactant | 6-methyl-pyridine-2-carboxylic acid | 72.9 mmol, 10 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | methanol | 10 mL | CO | CH4O
reactant | EDC | 94.8 mmol, 18.2 g
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 94.8 mmol, 11.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-Methyl-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1)C | C8H9NO2
